Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline
 
Attending: ___
 
Chief Complaint:
Atrial fibrillation with RVR  

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yoM w/ a h/o PAF presenting with atrial fibrillation with 
rapid ventricular response. Numerous falls in the past due to 
alcoholism and head bleed in past so not anticoagulated. He went 
to his PCP's office and was completely asymptomatic but was 
found to be in atrial fibrillation with RVR to a rate of 150s.  
.  
He was going to his PCPs office for a routine physical, no 
symptoms at all. No palpitations, SOB, CP, DOE, Orthopnea or 
PND. At baseline due to his neuropathy he is able to walk 1 
block at most prior to sitting down. He states he is limited by 
his significant lower extremity neuropathy.  
.  
On toprol 100mg daily at home and has been taking this.  
.  
Of note patient falls 3 x per week due to his neuropathy and 
uses a walker, he has been discussing a wheelchair with his PCP. 
 
.  
In the E.D. HR initially 150s lopressor 5mg IV x 3 HR to 100 
then back to 150 (not given PO lopressor). Then given 50mg po 
loressor x 1 then given 5mg IV x 2 lopressor and HR back to 100. 
HR ranging from 60-120 with BP in ED prior to transfer to floor 
of 124/60 98% RA RR 16.  

 
Past Medical History:
.  
PMH:  
HTN  
CAD s/p MI x 4 (per pt 3 in 1 week)  
DM  
Hypercholesterolemia  
ICH  
Diabetes - w/neuropathy; uses a cane  
PVD -- sees Dr. ___  
___ aflutter/a tach  
Colon Ca -- s/p partial colectomy ___, no rad or chemo; on ___  
yr follow-up schedule now -- due ___.  
Neuropathy -- progressing to R arm now; legs unchanged, uses  
Wt Loss -- ___ years  
Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.  

 
Social History:
___
Family History:
No hx of CAD or DM
sister with ___ 
 
Physical Exam:
VITAL: T 98.6 BP 127/73 HR 136 RR 18 O2 96% RA  
GEN: A+Ox3, NAD  
HEENT: PERRL, EOMI, OP clear, MMM  
CV: irregularly irregular, tachycardic, no m/r/g  
PULM: CTAB  
ABD: Soft, NT, ND, +BS  
EXT: No peripheral edema  

 
Pertinent Results:
___ 05:06PM   WBC-5.1 RBC-4.07* HGB-12.4* HCT-37.5* MCV-92# 
MCH-30.4# MCHC-33.0 RDW-16.5*
___ 05:06PM   NEUTS-54.8 ___ MONOS-5.4 EOS-0.4 
BASOS-0.7
___ 05:06PM   PLT COUNT-211
___ 05:06PM   CK(CPK)-81
___ 05:06PM   CK-MB-NotDone cTropnT-<0.01
___ 05:06PM   CALCIUM-9.7 PHOSPHATE-3.9 MAGNESIUM-1.7
___ 05:06PM   GLUCOSE-226* UREA N-7 CREAT-0.8 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-25 ANION GAP-17
___ 07:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-4* PH-8.0 LEUK-TR
___ 07:55PM URINE  ___ BACTERIA-OCC YEAST-NONE 
EPI-0
___ 05:06PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

EKG: ___ atrial fibrillation with RVR at a rate of 166.  
___ a.m. wandering atrial pacemaker, rate of 80.  
.  
ECHO: ___: The left atrium is normal in size. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%) Transmitral Doppler and tissue 
velocity imaging are consistent with normal LV diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic regurgitation. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion.  
.  
CXR ___: my read. Large lung volumes, lungs clear.  

 
Brief Hospital Course:
___ yo male with hx of PAF presents with atrial fibrillation with 
RVR, admitted for rate control.    
.  
# CAD: The patient has a past history of multipe MI's.  While 
admitted he had no chest pain and his EKG was without signs of 
ischemia.  
.
# Rhythm: The patient presented with an irregular narrow complex 
tachycardia. While admitted his HR varied between the 50's to 
the 150's.  While he was in atrial fibrillation, his HR was 
greatly elevated and once he broke out of atrial fibrillation, 
he had multiple early atrial beats with different p-wave 
morphologies, likely a wandering atrial pacemaker.  During the 
morning he cycled several times between WAP and atrial 
fibrillation, but once we increased his metoprolol dose to 75 
tid, he mostly remained in WAP.
.
The patient has a history of atrial tachycardia, s/p ablation in 
___ which has failed and he has had breakthrough tachycardia / 
flutter which is paroxysmal.  He was on toprol 100mg daily at 
home, so we increased his metoprolol dose while admitted to rate 
control him.  He was being controlled with 75 mg metoprolol tid, 
so we discharged him on 200 mg Toprol.  While admitted, his BP 
remained stable, even #when his HR increased to the 150's. As 
his Mg was 1.7, we repleted him with 4g PO.  We also sent a TSH 
which came back normal at 1.4.  He also had an echo from ___ 
which was essentially normal, including normal LA size.  We 
discharged him with the increased dose of metoprolol, a Holter 
monitor to monitor him for the first 24 hours post discharge on 
the new dose, and we made him a follow up appointment with Dr. 
___.
.  
# DM: While admitted we kept him on SSI with qid finger sticks 
since he couldn't remember which type of insulin he takes at 
home. 
.
# Hypertension: The patient's blood pressures where under good 
control while admitted.
.
# Hypercholesterolemia: We continued the patient's atorvastatin.
.  
# ETOH abuse: Patient has no history of withdrawal and was at 
low risk given negative serum ETOH screen. As the patient has a 
history of moderate alcohol intake we put him on thiamine, 
folate, and a multivitamin.  He had no signs of withdrawal 
during his stay. 

 
Medications on Admission:
Clopidogrel 75 mg daily  
Aspirin 325 mg daily  
Atorvastatin 40 mg daily  
folate 1mg daily  
Hexavitamin daily  
Novalog sliding scale and ?70:30 (unsure if 70:30 but takes a 
"mixed" insulin, 12u daily at around noon).  
Toprol 100mg daily  
Wellbutrin 75mg daily  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Bupropion 75 mg Tablet Sig: One (1) Tablet PO QAM (once a day 
(in the morning)).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  

7. Toprol XL 200 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
8. Insulin Glargine  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary -
Atrial fibrillation with rapid ventricular response

Secondary - 
Coronary artery disease
Hypertension
Diabetes
Hypercholesterolemia

 
Discharge Condition:
Stable in sinus rhythm.

 
Discharge Instructions:
You were admitted to the hospital due to atrial fibrillation 
with rapid ventricular response (rapid heart rate).

We increased your metoprol from 100 mg daily to 200 mg daily.  
Otherwise continue to take your outpatient medications as 
prescribed.
You will need to wear a Holter monitor for 24 hours.

Please go to the emergency room if you experience acute 
shortness of breath, chest pain, or dizziness.
 
Followup Instructions:
___